US05710162
Synthesis of 6-(((dimethylamino)ethyl)amino)-3-fluoro-7H-indeno[2,1-c]quinoline-7-on dihydrochloride (compound 2)
To a suspension of 6-chloro-3-fluoro-7H-indeno[2,1-c]quinoline-7-on (860 mg, 3.0 mmol) in pyrydine (10 ml) was added N,N-dimethylethylenediamine (800 mg, 9.0 mmol), and the mixture was stirred with heat at 90° C. for 12 hours. The reaction mixture was distilled to dryness. To the residue was added water and chloroform for extraction. The chloroform layer was dried over magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (eluent; chloroform:ethanol=10:1(v/v)). The purified material was dissolved in 20 ml of tetrahydrofuran. To the the solotion was added 4N-hydrochloride/dioxane (2 ml) and the mixture was concentrated under reduced pressure. The residue obtained was crystallized from diethylether to give 420 mg (yield 34.3%) of title compound. The physicochemical properties thereof are shown in table 1.

reactant | 6-chloro-3-fluoro-7H-indeno[2,1-c]quinoline-7-on | 3.0 mmol, 860 mg | ClC1=NC2=CC(=CC=C2C2=C1C(C1=CC=CC=C12)=O)F | C16H7ClFNO
reactant | N,N-dimethylethylenediamine | 9.0 mmol, 800 mg | CN(CCN)C | C4H12N2
product | 6-(((dimethylamino)ethyl)amino)-3-fluoro-7H-indeno[2,1-c]quinoline-7-on dihydrochloride | 420 mg, yield 34.3% | Cl.Cl.CN(C)CCNC1=NC2=CC(=CC=C2C2=C1C(C1=CC=CC=C12)=O)F | InChI=1S/C20H18FN3O.2ClH/c1-24(2)10-9-22-20-18-17(13-5-3-4-6-14(13)19(18)25)15-8-7-12(21)11-16(15)23-20;;/h3-8,11H,9-10H2,1-2H3,(H,22,23);2*1H
